US07294633B2
3.0 g (9.1 mmols) of 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid ethyl ester are boiled for 50 min in ca. 50 ml of 5% sodium hydroxide solution. The reaction mixture is suction-filtered whilst hot and the residue discarded. [In order to obtain the sodium 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylate, the cold filtrate (after cooling, needles form) is filtered by suction over ice and washed with a little ice water. The needles are dried in a HV. M.p. >250° C. (decomposition).] After cooling, the filtrate is carefully adjusted to pH 1 with conc. hydrochloric acid (a precipitate forms). Filtering by suction and drying of the residue in a HV yield the title compound as a solid, which melts at 300-302° C. (decomposition at the melting point):

reactant | 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | 9.1 mmols, 3.0 g | C(C)OC(=O)C1=C(OC=2N=CN=C(C21)O)C2=CC=C(C=C2)[N+](=O)[O-] | C15H11N3O6
reactant | sodium hydroxide | ca. 50 ml | [OH-].[Na+]
product | sodium 4-hydroxy-6-(4-nitrophenyl)furo[2,3-d]pyrimidine-5-carboxylate | OC=1C2=C(N=CN1)OC(=C2C(=O)[O-])C2=CC=C(C=C2)[N+](=O)[O-].[Na+] | InChI=1S/C13H7N3O6.Na/c17-11-9-8(13(18)19)10(22-12(9)15-5-14-11)6-1-3-7(4-2-6)16(20)21;/h1-5H,(H,18,19)(H,14,15,17);/q;+1/p-1
